data/mechanism_extracts/JACS/10.1021_jacs.2c08951.json
{"doi": "10.1021_jacs.2c08951", "journal": "JACS", "is_review": false, "rxn_class_summary": "Electrophotocatalytic regiodivergent 1,2-aminooxygenation of aryl olefins to oxazolines using water or urethane as the first nucleophile and acetonitrile as the second (Ritter-type) nucleophile", "mechanism_family": ["radical_polar_crossover", "photoredox_combined", "radical_cation", "mediator_anodic"], "electrochemical_role": "Anodic oxidation of trisaminocyclopropenium (TAC) catalyst to its radical dication, which upon photoexcitation becomes a strongly oxidizing species (E*red = 3.3 V vs SCE) that performs SET oxidation of the aryl alkene to a radical cation", "key_intermediates": [{"name": "TAC radical cation (catalyst, one-electron oxidized form)", "smiles": null, "role": "resting_state"}, {"name": "Photoexcited TAC radical dication (*TAC2+)", "smiles": null, "role": "reactive"}, {"name": "Alkene radical cation (from aryl olefin 63)", "smiles": null, "role": "reactive"}, {"name": "beta-hydroxy benzylic radical (65, after water addition)", "smiles": null, "role": "transient"}, {"name": "beta-carbamate benzylic radical (70, after urethane addition)", "smiles": null, "role": "transient"}, {"name": "Benzylic carbocation (66, after second oxidation)", "smiles": null, "role": "reactive"}, {"name": "Nitrilium ion from acetonitrile trapping (67)", "smiles": null, "role": "transient"}, {"name": "Oxazoline product 68 (from water pathway, Ritter cyclization)", "smiles": null, "role": "reactive"}, {"name": "Oxazoline product 71 (from urethane pathway, carbamate O cyclization)", "smiles": null, "role": "reactive"}, {"name": "1,2-Diol 69 (off-pathway when excess water present)", "smiles": null, "role": "off_pathway"}], "electron_flow": "Anode oxidizes TAC+ to TAC2+•, which is photoexcited to a super-oxidant that performs SET on the aryl alkene to give a radical cation; nucleophilic addition of water (or urethane) yields a benzylic radical that is further oxidized (by TAC2+• or the anode) to a benzylic cation; acetonitrile traps it as a nitrilium that cyclizes via the pendant hydroxyl (or carbamate carbonyl) to the oxazoline, with H2 evolved at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "excess water (stoichiometry probe)", "smiles": "O", "purpose": "other", "observation": "Large excess of water diverts the reaction to 1,2-diol 69 and produces benzaldehyde, indicating water can outcompete MeCN as the second nucleophile; minimizing water restores selectivity for oxazoline 68"}, {"name": "methyl carbamate (alternative nucleophile)", "smiles": "COC(=O)N", "purpose": "intermediate_trap", "observation": "Replaces water in the first nucleophilic addition step, giving the methyl analogue of 11 and supporting the radical-cation trapping step"}, {"name": "urethane (ethyl carbamate)", "smiles": "CCOC(=O)N", "purpose": "intermediate_trap", "observation": "Outcompetes acetonitrile in the first addition, leading to regiodivergent oxazoline 71 via carbamate-oxygen cyclization, consistent with the proposed cation/radical-cation intermediates"}, {"name": "cyclic olefin substrate", "smiles": null, "purpose": "other", "observation": "Gave substantial diamination byproduct alongside oxazoline, indicating competing pathways for constrained substrates"}], "evidence_types_used": ["intermediate_trap_other", "cyclic_voltammetry", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Regiodivergence is controlled simply by choice of first nucleophile (water vs urethane); both pathways share initial alkene radical-cation generation by photoexcited TAC dication. With cyclic olefins a competing diamination pathway is observed. Excess water diverts to diol/benzaldehyde, showing the second nucleophilic addition is the selectivity-determining step. No KIE, radical-trap (TEMPO/BHT), or DFT data are reported on these pages."}
